US07923470B2
{3-[(6-Chloro-benzooxazol-2-ylamino)-methyl]-pyrrolidin-1-yl}-(2,6-dimethoxy-phenyl)-methanone
A mixture of 20 mg (0.07 mmol) (6-chloro-benzooxazol-2-yl)-pyrrolidin-3-ylmethyl-amine; hydrochloride, 15 mg (0.77 mmol) 2,6-dimethoxybenzoyl chloride and 10 mg (0.1 mmol) NEt3 in 2 mL DCM was shaken at room temperature over night. After evaporation the residue was subjected to purification by preparative HPLC on reversed phase eluting with a gradient formed from acetonitrile, water and formic acid. The product containing fractions were evaporated to yield 6.5 mg (22%) of the title compound. MS (m/e): 416.2 (MH+).

reactant | (6-chloro-benzooxazol-2-yl)-pyrrolidin-3-ylmethyl-amine | 0.07 mmol, 20 mg | ClC1=CC2=C(N=C(O2)NCC2CNCC2)C=C1 | C12H14ClN3O
reactant | hydrochloride | Cl | ClH
reactant | 2,6-dimethoxybenzoyl chloride | 0.77 mmol, 15 mg | COC1=C(C(=O)Cl)C(=CC=C1)OC | C9H9ClO3
reactant | NEt3 | 0.1 mmol, 10 mg | CCN(CC)CC | C6H15N
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | {3-[(6-Chloro-benzooxazol-2-ylamino)-methyl]-pyrrolidin-1-yl}-(2,6-dimethoxy-phenyl)-methanone | 6.5 mg, 22% | ClC1=CC2=C(N=C(O2)NCC2CN(CC2)C(=O)C2=C(C=CC=C2OC)OC)C=C1 | C21H22ClN3O4
